US03940258
The preparation of subject compounds is known from the literature. For example, Spath, E., et al. Ber 69B, 2727-31 (1936) CA 31, 22728 react γ-hydroxybutyric acid lactone with benzyl amine at a temperature of 215°-220°C. to obtain as the reaction product, N-benzyl-γ-hydroxybutyramide in 42% yield. It is further known from the literature (Reppe, W. CA 50, 16786 ie) that when 214 g. benzyl amine (b.p. 187°C.) are reacted with 172 g. γ-butyrolactone (b.p. 204°C.) for 8 hours, there is obtained only 184 g. of reaction product amounting to a yield of 47.6% of the theoretical. After recrystallization of this latter reaction product from ethylacetate, the compound recovered has a melting point of 70°-72°C.

reactant | γ-hydroxybutyric acid lactone | C1CC(=O)OC1 | C4H6O2
reactant | benzyl amine | C(C1=CC=CC=C1)N | C7H9N
product | N-benzyl-γ-hydroxybutyramide | 42% yield | C(C1=CC=CC=C1)NC(CCCO)=O | C11H15NO2
